US04226801
A mixture of 1,12-dodecanediol (10.2 g, 0.051 mol), sodium hydroxide (4.6 g, 0.11 mol), 120 ml of dimethyl sulfoxide, 20 ml of benzene and 6 ml of water was stirred at reflux under a nitrogen atmosphere for 12 hours. The water was azeotroped from the mixture with a Dean-Stark trap. After cooling, 17.5 g (0.11 mol) of 4-nitrophthalonitrile was added to the disodium salt of 1,12-dodecanediol prepared above. The resulting mixture was slowly heated to 140° C. and stirred at this temperature for 8 hours. The cooled reaction mixture was poured into 400 ml of cold water. The aqueous solution was extracted with three, 75 ml portions of methylene chloride. The combined extract was washed with water, charcoaled, and dried over anhydrous sodium sulfate and concentrated at reduced pressure. Recrystallization from ethanol-water yielded 10.1 g (45%) of 1,12-bis(3,4-dicyanophenoxy) dodecane.

reactant | 1,12-dodecanediol | 0.051 mol, 10.2 g | C(CCCCCCCCCCCO)O | C12H26O2
reactant | sodium hydroxide | 0.11 mol, 4.6 g | [OH-].[Na+]
reactant | 4-nitrophthalonitrile | 0.11 mol, 17.5 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | disodium | [Na][Na] | 2Na
solvent | water | 400 ml | O | H2O
solvent | water | 6 ml | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | dimethyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
product | 1,12-bis(3,4-dicyanophenoxy) dodecane | 10.1 g, 45% | C(#N)C=1C=C(OCCCCCCCCCCCCOC2=CC(=C(C=C2)C#N)C#N)C=CC1C#N | C28H30N4O2
